Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / morphine / Imitrex
 
Attending: ___.
 
Chief Complaint:
Bright Red Blood per Rectum
 
Major Surgical or Invasive Procedure:
Esophagogastroduodenoscopy & Colonoscopy on ___

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with
history of HFpEF, mitral valve disease s/p mechanical MVR on
high-dose warfarin due to warfarin resistance, ___, CAD, HTN,
HLD, DMII, COPD, pyloric channel ulcer with upper GIB in ___
who presents with bright red blood per rectum.

The patient was recently admitted to ___ for
acute on chronic diastolic heart failure exacerbation, and was
discharged to rehab on ___. 

She then developed nausea, vomiting, diarrhea, and severe
right-sided lower abdominal pain on ___. The pain worsened on
___, so she presented to ___. CT 
abdomen/pelvis
at that time showed ileocolitis. C. diff per notes was negative.
Gastroenterology was consulted, and the patient was treated with
a 14-day course of ceftriaxone/Flagyl (Last day: ___. The
patient tells me that her abdominal pain resolved, and she felt
much better.

The patient has a history of warfarin resistance and requires
high doses of warfarin to maintain a therapeutic INR. During 
this
admission and ___, she received low doses of warfarin (5
mg) and her INR was subtherapeutic, so she was initiated on a
heparin gtt as bridging therapy. At approximately 0200 on 
___
she awoke with abdominal cramping and had a large amount of
bright red blood per rectum with clots. She reports that
throughout the days she continued to have more than 10 bloody
bowel movements with clots. She denies any lightheadedness,
dizziness, chest pain, palpitations, shortness of breath. Her
heparin gtt was stopped and warfarin was held.

Hb downtrended to 7.6 a time of discharge; transfusion was
planned prior to transport but given blood antibodies patient 
not
able to be matched expeditiously so transferred without
transfusion. INR was 2.5 at time of transfer.

On arrival, the patient reports that she feels "awful." She
recounts the above history, and reports a cramping bilateral
lower abdominal pain. This pain feels different in quality to 
the
right-sided lower abdominal pain that brought her to ___
originally. Denies nausea, vomiting. No fevers or chills. 
Reports
nonexertional substernal chest discomfort that she attributes to
anxiety regarding her current clinical condition. No shortness 
of
breath or cough. No other complaints at this time.

 
Past Medical History:
Hypertension  
Diabetes mellitus (A1c 7.3 in ___  
Pulmonary Hypertension  
Possible Rheumatic heart disease  
Paroxysmal Afib  
Morbid obesity  
Asthma  
Chronic obstructive pulmonary disease  
Migraines  
Obstructive sleep apnea (not using CPAP at home)  
Depression/Bipolar disorder  
Possible Fibromyalgia on Percocet  
Osteoarthritis  
History of Bells Palsy  
s/p mechanical mitral valve replacement/closure foramen 
ovale/resection left atrial appendage/talon closure sternum 
___  
s/p cervical spine surgery in ___ at ___  
s/p ___ for excessive bleeding in ___  
s/p C-section x 2  
 
Social History:
___
Family History:
Significant for fibromyalgia in her brother, mother and maternal 
aunt. History of ovarian, breast, and colon cancer in maternal 
side. Congenital heart disease in niece. Mother with RHD and MVR 
as well as MI in her ___. MGF with stroke in ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 97.7 122/79 73 18 93 Ra 
GEN: Alert, lying in bed, appears mildly uncomfortable
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor, 
right
pupil 5mm and reactive, left pupil 4 mm and reactive, EOMI  
NECK: Supple without LAD; neck veins flat  
PULM: CTAB, no w/r/r
COR: RRR, loud mechanical S1
ABD: Obese, BS+, soft, diffusely tender in lower abdomen without
rebound or guarding 
EXTREM: Warm, well-perfused, no pitting edema
SKIN: Venous stasis changes on bilateral lower extremities  
NEURO: AOx3 CN II-XII grossly intact, motor function grossly
normal
PSYCH: Anxious mood and affect 

DISCHARGED PHYSICAL EXAM:
=========================
GEN: Alert, laying flat in bed, appears more comfortable, put on 
make-up
NECK: Supple without LAD; neck veins flat  
PULM: CTAB, COR: RRR, loud mechanical S1
ABD: Obese, BS+, soft, tenderness to palpation in RUQ and RLQ 
without rebound or guarding 
EXTREM: Warm, well-perfused, no pitting edema, 
SKIN: Venous stasis changes on bilateral lower extremities  
PSYCH: Calm mood and affect
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:07PM   HGB-8.2* calcHCT-25
___ 06:18PM   ___ PTT-41.0* ___
___ 06:18PM   WBC-5.9 RBC-3.11* HGB-7.7* HCT-26.0* MCV-84 
MCH-24.8* MCHC-29.6* RDW-21.3* RDWSD-64.3*
___ 06:18PM   ALT(SGPT)-24 AST(SGOT)-14 LD(LDH)-191 ALK 
PHOS-109* TOT BILI-<0.2

DISCHARGE LABS:
===============
___ 04:47AM BLOOD WBC-6.4 RBC-3.45* Hgb-8.5* Hct-28.8* 
MCV-84 MCH-24.6* MCHC-29.5* RDW-20.7* RDWSD-62.4* Plt ___
___ 04:47AM BLOOD ___ PTT-40.5* ___

EGD ___
IMPRESSION:
Normal mucosa in the whole esophagus. 
Erosions in the antrum. 
Normal mucosa in the whole examined duodenum. 

COLONOSCOPY ___:
IMPRESSION:
High residue material was noted throughout. Multiple attempts 
were made to irrigate the colon but the mucosa could not be 
visualized adequately. 
Severe diverticulosis of the sigmoid colon. 
No evidence of active GI bleeding 
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with history of HFpEF, mitral 
valve disease s/p mechanical MVR on high-dose warfarin due to 
warfarin resistance, CAD, HTN, HLD, DMII, COPD who presents with 
bright red blood per rectum.

#Diverticulosis, GI bleed, acute blood loss anemia:
Patient presented with bright red blood per rectum. CT A/P with 
contrast at OSH on ___ showed sigmoid diverticulosis but no 
evidence of active bleeding. Patient also has history of 
mechanical MVR and warfarin resistance requiring high dose 
warfarin (35mg) for target INR of 2.5-3.5. On presentation, INR 
was 3.7 and Hgb was 7.9. Hgb remained stable throughout 
hospitalization, she required no blood transfusion while at 
___, and patient received EGD (which was significant for 
antral erosions) and colonoscopy that revealed extensive 
diverticulosis but no active bleeding. She had a stool h.pylori 
ordered that was not resulted at the time of discharge. Patient 
then remained without active bleeding for the rest of her 
hospitalization and Hgb trended upward- was 8.5 on day of 
discharge.

#Abdominal Pain: Presented with cramping abdominal pain after 2 
weeks of antibiotics for ileocolitis and resolution of original 
pain. CT on ___ showed no signs of ongoing colitis, but patient 
continued to have new pain. Pain was treated with home 
medications, including tramadol, in an otherwise opioid-sparing 
pain regimen, given patient's history of hospital-enabled opioid 
use disorder.

#Opioid Use Disorder: Patient had been previously started on 
tramadol iso of osteoarthritis. Patient has multiple other 
stressors in her life including recent divorce and loneliness. 
Made mentions of helplessness while inpatient. All of this may 
be compounding her experience of physical pain and creating her 
want for more medications. Following up possible solutions to 
opioid use will be necessary to ensure optimal outcomes in the 
future.

#Mitral Regurgitation s/p Mechanical MVR:
Given warfarin resistance is maintained on ___ of warfarin 
daily. Presented with INR of 3.0. She was given smaller doses of 
warfarin as inpatient to have INR brought down to 2.5 for 
___. Had an INR of 2.3 (subtherapeutic) on day of 
discharge. Was thus bridged with Lovenox, given home dose of 
warfarin, and discharged with instructions for daily INR at 
___ rehab facility. Once INR 2.5 or higher, can 
discontinue Lovenox.

CHRONIC ISSUES:
================
#Paroxysmal Afib: Maintained normal sinus rhythm while 
inpatient. Continued home metoprolol and warfarin.

#Chronic HFpEF: Euvolemic at presentation. Home furosemide, 
lisinopril, and metoprolol continued. 

#Chest Pain: Patient w/ history of single-vessel CAD- presented 
initially with atypical chest pain. Pain was non-exertional (had 
normal ekg and negative enzymes). Resolved with home Lorazepam. 
Chest pain free for several days prior to discharge

#CAD: Continued home statin, metoprolol, and asa while 
inpatient. 

#COPD: No evidence of acute exacerbation while inpatient. 

#HTN: Home BP medications continued. 

#DMII: ISS continued in house. Metformin held inpatient but OK 
to resume on discharge.

#Anxiety: Continued home Ativan. 

#Obstructive Sleep Apnea: Continued CPAP at night. 

#OA of the R knee: Continued home gabapentin and tramadol. 

TRANSITIONAL ISSUES:
=====================
[] Patient will need daily INR checks to ensure that her INR is 
between 2.5-3.5. If her INR is 2.5 or above, can discontinue 
Lovenox, and continue to titrate warfarin as necessary for INR 
goal. Of note, history of warfarin resistance requiring very 
high doses.
[] Avoid Narcotics for pain relief as possible
[] F/u w/ PCP after discharge from Rehab
[] F/u H. pylori antigen test
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Headache 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Furosemide 80 mg PO BID 
6. Gabapentin 1200 mg PO TID 
7. Lidocaine 5% Patch 1 PTCH TD DAILY 
8. Lisinopril 2.5 mg PO DAILY 
9. LORazepam 1 mg PO Q6H:PRN anxiety 
10. Nicotine Patch 21 mg TD DAILY 
11. TraMADol 75 mg PO Q6H:PRN Pain - Moderate 
12. Venlafaxine XR 150 mg PO QPM 
13. Metoprolol Succinate XL 25 mg PO DAILY 
14. MetFORMIN (Glucophage) 500 mg PO DAILY 
15. Warfarin 35 mg PO DAILY16 
16. Benzonatate 100 mg PO TID 
17. Simethicone 40-80 mg PO QID:PRN Gas 
18. Potassium Chloride 20 mEq PO DAILY 
19. TraZODone 150 mg PO QHS 
20. DICYCLOMine 20 mg PO TID 
21. Tolterodine 4 mg PO DAILY 
22. Pantoprazole 40 mg PO Q24H 
23. Sucralfate 1 gm PO QID 
24. Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing 
25. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN Chest pain 
26. nystatin 100,000 unit/gram topical TID:PRN 

 
Discharge Medications:
1.  Enoxaparin Sodium 140 mg SC BID 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
2.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
3.  Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Headache 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth every 8 hours Disp #*12 Tablet Refills:*0 
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  Benzonatate 100 mg PO TID  
8.  DICYCLOMine 20 mg PO TID  
9.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
10.  Furosemide 80 mg PO BID  
11.  Gabapentin 1200 mg PO TID  
12.  Lidocaine 5% Patch 1 PTCH TD DAILY  
13.  Lisinopril 2.5 mg PO DAILY  
14.  LORazepam 1 mg PO Q6H:PRN anxiety 
RX *lorazepam 1 mg 1 tablet by mouth every 6 hours Disp #*8 
Tablet Refills:*0 
15.  MetFORMIN (Glucophage) 500 mg PO DAILY  
16.  Metoprolol Succinate XL 25 mg PO DAILY  
17.  Nicotine Patch 21 mg TD DAILY  
18.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN Chest pain  
19.  nystatin 100,000 unit/gram topical TID:PRN  
20.  Pantoprazole 40 mg PO Q24H  
21.  Potassium Chloride 20 mEq PO DAILY 
Hold for K >  
22.  Simethicone 40-80 mg PO QID:PRN Gas  
23.  Sucralfate 1 gm PO QID  
24.  Tolterodine 4 mg PO DAILY  
25.  TraMADol 75 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1.5 tablet(s) by mouth every 6 hours Disp 
#*18 Tablet Refills:*0 
26.  TraZODone 150 mg PO QHS  
27.  Venlafaxine XR 150 mg PO QPM  
28.  Warfarin 35 mg PO DAILY16 Duration: 1 Dose  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Diverticulosis and acute ___ anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,  
It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?  
- You were transferred to ___ for severe bleeding in your GI 
tract. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had an endoscopy and colonoscopy done to find the source 
of the bleeding.  Fortunately, by the time we did the procedure, 
there was no longer any active bleeding.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.

We wish you the best!

Sincerely,  
Your ___ Team 
 
Followup Instructions:
___